US07732626B2
Optically Active Form of (6-hydroxy-2,3-dihydro-1-benzofuran-3-yl)acetic acid
To a mixture of (1,5-cyclooctadiene)rhodium trifluoromethanesulfonate (47 mg) and (S,S)-Et-FerroTANE (44 mg) was added methanol (15 mL) sufficiently substituted by argon gas, and the mixture was stirred at room temperature 15 min. To a mixture of (6-hydroxy-1-benzofuran-3-yl)carboxylic acid (1.92 g) and sodium methoxide (270 mg) was added methanol (35 mL) sufficiently substituted by argon gas. The methanol solution prepared earlier was added thereto, and the mixture was stirred at room temperature for 2 hr under 0.7 MPa hydrogen atmosphere. The reaction mixture was quantified by HPLC. As a result, the enantiomeric excess was 91.2%, and the yield was 98.5%.

reactant | (6-hydroxy-1-benzofuran-3-yl)carboxylic acid | 1.92 g | OC1=CC2=C(C(=CO2)C(=O)O)C=C1 | C9H6O4
reactant | sodium methoxide | 270 mg | C[O-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | methanol | CO | CH4O
reactant | methanol | 35 mL | CO | CH4O
reactant | methanol | 15 mL | CO | CH4O
product | (6-hydroxy-2,3-dihydro-1-benzofuran-3-yl)acetic acid | yield was 98.5% | OC1=CC2=C(C(CO2)CC(=O)O)C=C1 | C10H10O4
